US07923450B2
2-(4-Methyl-imidazol-1-yl)-5-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzonitrile
A suspension of [3-cyano-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (64.3 mg, 0.25 mmol) and of 2-bromo-6-phenyl-cyclohexanone (63.3 mg, 0.25 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure. The residue was suspended in dichloromethane/diethyl ether. The precipitated solid was filtered off, washed with diethyl ether and dried under reduced pressure to yield the title compound (90 mg, 88%) as a pale-brown solid. MS ISP (m/e): 412.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.75 (s, 1H), 9.31 (s, 1H), 8.16 (s, 1H), 7.78 (m, 2H), 7.65 (d, 1H), 7.30 (t, 2H), 7.17 (m, 3H), 4.08 (m, 1H), 2.75 (m, 2H), 2.34 (s, 3H), 2.15 m, 2H), 1.76 (m, 2H).

reactant | [3-cyano-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.25 mmol, 64.3 mg | C(#N)C=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H11N5S
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.25 mmol, 63.3 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(4-Methyl-imidazol-1-yl)-5-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzonitrile | 90 mg, 88% | CC=1N=CN(C1)C1=C(C#N)C=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C24H21N5S
